US20010018440A1
Melting points were determined on a Mel-temp II laboratory device and are uncorrected. NMR spectra were recorded on a Bruker 250 or Brucker 400 Fourier transform spectrometer; chemical shifts are reported in parts per million(δ), and signals are quoted as s singlet), d (doublet), t (triplet), q (quartet), m (multiplet), and dd (doublet of doublets). UV spectra were obtained on a Beckman DU-7 spectrophotometer. Optical rotations were measured on a JASCO DIP-370 digital polarimeter. TLC was performed on Uniplates(silica gel) purchased from Analtech Co. Elemental analyses were performed by Atlantic Microlab, Inc., Norcross, Ga. Dry 1,2-dichloroethane, dichworomethane, acetonitrile, benzene and pyridine were obtained by distillation from CaH2 prior to use. Dry THF was obtained by distillation from Na and benzophenone when the solution became purple.

reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | THF | C1CCOC1 | C4H8O
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
